US07129232B2
A solution of 4,5-diamino-1-methylpyrazole sulfuric acid salt (158 g) in water (1.1 L) was neutralized to pH 6.9 with 4N aqueous sodium hydroxide solution, and dioxane (474 ml) was added to this solution. To the resulting mixture was added dropwise phenyl chloroformate (124 g) maintaining pH of the mixture at 6.9 with 4N aqueous sodium hydroxide solution at a temperature below 10° C. The reaction mixture was stirred for 1 hour. The precipitated solid was collected by filtration and dried to give 5-amino-1-methyl-4-phenoxycarbonylaminopyrazole (155 g).

reactant | 4,5-diamino-1-methylpyrazole sulfuric acid salt | 158 g | S(O)(O)(=O)=O.NC=1C=NN(C1N)C
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | dioxane | 474 ml | O1CCOCC1 | C4H8O2
reactant | phenyl chloroformate | 124 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | 1.1 L | O | H2O
product | 5-amino-1-methyl-4-phenoxycarbonylaminopyrazole | 155 g | NC1=C(C=NN1C)NC(=O)OC1=CC=CC=C1 | C11H12N4O2
